US05977101
a) N-BOC-2-methylbenzimidazole
To a stirred mixture of 2-methylbenzimidazole (15 g, 113.5 mmol), triethylamine (12 g, 119.2 mmol), and DMAP (cat.) in dry CH2Cl2 (150 mL) was added (Boc)2O. After 24 h, the mixture was concentrated. The residue was taken up in H2O, stirred and filtered to give a white solid (26.3 g, 100%): mp 71-72° C.; 1H NMR (250 MHz, CDCl3) δ 1.71 (s, 9H), 2.83 (s, 3H), 7.29 (m, 2H), 7.65 (m, 1H), 7.91 (m, 1H).

reactant | 2-methylbenzimidazole | 113.5 mmol, 15 g | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | triethylamine | 119.2 mmol, 12 g | C(C)N(CC)CC | C6H15N
reactant | (Boc)2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | N-BOC-2-methylbenzimidazole | 26.3 g, 100% | C(=O)(OC(C)(C)C)N1C(=NC2=C1C=CC=C2)C | C13H16N2O2
